US07271197B2
iii) Benzyl 3-(4-hydroxybutyl)benzoate
A solution of 3-(4-hydroxybutyl)benzoic acid (100 mg) in dry DMF (10 ml) was treated with diisopropylethylamine (0.134 ml) and benzyl bromide (106 mg) and the reaction mixture was stirred for 65 h. The reaction mixture was partitioned between EtOAc and water. The organic phase was washed with sat. NH4Cl(aq), dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (SPE, gradient Cyclohexane to cyclohexane-EtOAc 1:1) to give the title compound LCMS RT=3.38 min.

reactant | 3-(4-hydroxybutyl)benzoic acid | 100 mg | OCCCCC=1C=C(C(=O)O)C=CC1 | C11H14O3
reactant | diisopropylethylamine | 0.134 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl bromide | 106 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Benzyl 3-(4-hydroxybutyl)benzoate | OCCCCC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C18H20O3
